US04496572
A mixture of 2-bromomethylbenzo[b]thiophene-5-carboxylic acid methyl ester (1.71 g), imidazole (4.08 g) and sodium bicarbonate (0.55 g) in acetone (50 ml) was heated under reflux for 3 hours and then evaporated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (Na2SO4) and evaporated to give a solid which was chromatographed on silica gel. Elution with chloroform gave first a small amount of starting material followed by product. Evaporation of the product containing fractions gave a solid which was crystallised from ethyl acetate/petrol (b.p. 60°-80°) to give 2-(1-imidazolylmethyl)benzo[b]thiophene-5-carboxylic acid methyl ester (0.81 g), m.p. 127°-128°.

reactant | 2-bromomethylbenzo[b]thiophene-5-carboxylic acid methyl ester | 1.71 g | COC(=O)C1=CC2=C(SC(=C2)CBr)C=C1 | C11H9BrO2S
reactant | imidazole | 4.08 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 0.55 g | C([O-])(O)=O.[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(1-imidazolylmethyl)benzo[b]thiophene-5-carboxylic acid methyl ester | 0.81 g | COC(=O)C1=CC2=C(SC(=C2)CC=2NC=CN2)C=C1 | C14H12N2O2S
